US06884801B1
To a 250-mL rotted bottom flask were added 2′-aminoacetophenone (3.0 g, 22.2 mmol), methoxylamine hydrochloride (2.0 g, 24.4 mmol, 1.1 eq) and ethanol (30 mL). The reaction mixture was heated at reflux with stirring under a nitrogen atmosphere for 3 h. The oil bath was removed and the reaction mixture was allowed to cool at room temperature. The reaction mixture was filtered and the filtered solid was washed with ethanol followed by diethyl ether to give 0.64 g of 1-(2-aminophenyl)-1-ethanone O-methyloxime hydrochloride as a white solid.

reactant | 2′-aminoacetophenone | 22.2 mmol, 3.0 g | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | methoxylamine hydrochloride | 24.4 mmol, 2.0 g, 1.1 eq | Cl.O(C)N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-(2-aminophenyl)-1-ethanone O-methyloxime hydrochloride | 0.64 g | Cl.CON=C(C)C1=C(C=CC=C1)N | InChI=1S/C9H12N2O.ClH/c1-7(11-12-2)8-5-3-4-6-9(8)10;/h3-6H,10H2,1-2H3;1H
